Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Worsened pain from facial phlegmon
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ M with DMII (diet controlled, A1c 5.6) who 
presented to the ED with R sided facial swelling following an 
odontic procedure and is now admitted to medicine for IV abx 
after he was found to have a right preauricular 
phlegmon/abscess.

 
The patient underwent extraction of his R upper and lower wisdom 
teeth 10 days prior to presentation. On ___ days after 
extraction, he noticed what he describes as painful 
"pimple"-like swelling in his R ear lobe and R lower cheek. He 
presented to the ___ ED on ___ for these symptoms. He 
underwent CT neck w/contrast which showed likely cellulitis and 
possible mild right parotitis without evidence of abscess. He 
was placed in observation for administration of IV unasyn 
overnight. After 2 doses of IV abx, he was discharged on ___ 
with a prescription for 10d PO augmentin, which he took ___ 
doses of before returning to the ER due to worsening swelling.  

Since he was discharged, his swelling and pain has worsened and 
has spread to his jaw. He endorses intermittent fevers and 
chills, although he has not taken his temp at home. He reports 
decreased appetite over the past week, but has had good 
tolerance of PO fluids. He denies dysphagia, drainage from cheek 
or mouth,
voice changes, trismus, difficulty speaking, chains in vision. 
He denies chest pain, shortness of breath, n/v, abdominal pain.
Given his progressive pain despite antibiotics he decided to 
return to the ED.  
 
Past Medical History:
Diet controlled Type II Diabetes
 
Social History:
___
Family History:
- ___ FH pertinent for DM II
 
Physical Exam:
ADMISSION PHYSICAL:
===================
Vitals-  98.6 PO BP 144/76 HR 73 RR 18 99% Ra 
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. PERRLA, EOMI. ___ clear 
bilaterally with normal light reflex. Moist mucous 
membranes.Oropharynx clear, nonerythematous, no signs of 
exudative drainage. 
NECK: Neck supple, no cervical lymphadenopathy.  
CARDIAC: rrr, no murmurs/rubs/gallops.   
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. 
ABDOMEN: abdomen soft, nontender, non distended.
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Erythematous, firm area of swelling in R facial area, with 
involvement of R earlobe, R postauricular area and area 
overlying R masseter muscle. Exquisitely tender to palpation and 
warm to touch. Skin over swollen area is taut with some scaling. 

NEUROLOGIC: CN2-12 grossly intact. 5+/5 strength in UE and ___ 
bilaterally. 

DISCHARGE PHYSICAL:
===================
GENERAL: Well-appearing man, lying comfortably in bed, jovial, 
in no acute distress.
HEENT: Warm, swollen, and thickened tissue of right preauricular 
region, measuring approximately 5 cm x 1.5 cm, extending down 
towards the jawline. No erythema. No tenderness. No 
temporomandibular joint pain with biting. PERRL. EOMI. Normal 
visual fields. MMM. No erythema of the buccal mucosa or tongue, 
no exudates. Uvula and trachea midline.
CARDIO: RRR, no murmurs, rubs, or gallops. Normal S1 and S2.
LUNGS: Clear to auscultation bilaterally. No wheezes, rales, or 
rhonchi.
ABDOMEN: +BS. Soft, obese abdomen, non-distended, non-tender.
EXTREMITIES: Warm and well perfused. No rashes, excoriations, or 
edema. 2+ pulses.
NEURO: AOx3. Normal speech. CN ___ intact.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:10PM BLOOD WBC-12.8* RBC-4.16* Hgb-12.5* Hct-36.9* 
MCV-89 MCH-30.0 MCHC-33.9 RDW-12.1 RDWSD-39.0 Plt ___
___ 10:10PM BLOOD Neuts-64.4 ___ Monos-7.2 Eos-2.7 
Baso-0.5 Im ___ AbsNeut-8.25* AbsLymp-3.17 AbsMono-0.92* 
AbsEos-0.35 AbsBaso-0.07
___ 10:10PM BLOOD Plt ___
___ 10:10PM BLOOD Glucose-156* UreaN-8 Creat-0.8 Na-141 
K-4.1 Cl-100 HCO3-28 AnGap-13
___ 10:10PM BLOOD CRP-39.1*
___ 10:22PM BLOOD Lactate-2.0

IMAGING:
========
CT Head:
Interval worsening of soft tissue stranding and subcutaneous 
edema of the 
right earlobe suggesting cellulitis, particularly around a 2.4 
cm area in the inferior right ear lobe with minimal peripheral 
enhancement which may 
represent phlegmon.  No definite abscess. 
  
ATTENDING NOTE: Given the rim enhancement, abscess cannot be 
excluded.  
Ultrasound is recommended to exclude fluid within the area of 
swelling. 

U/S   
In the right inferior pinna, a 2.5 x 1.7 x 2.0 cm fluid 
collection is 
concerning for developing abscess. 

DISCHARGE LAB RESULTS
=====================
___ 07:15AM BLOOD WBC-7.1 RBC-4.21* Hgb-12.5* Hct-37.3* 
MCV-89 MCH-29.7 MCHC-33.5 RDW-12.0 RDWSD-38.7 Plt ___
 
Brief Hospital Course:
Mr. ___ is a ___ male with no significant past 
medical history, p/w R sided facial pain and swelling following 
recent dental procedure that has been worsening despite PO 
antibiotics, admitted to medicine for treatment of R 
preauricular abscess.

# Right preauricular abscess: Possibly a complication from 
recent dental procedure. Right facial pain and swelling 
previously worsening despite ED admission on ___ and treatment 
with IV unasyn and trial of PO augmentin. Patient's symptoms 
were likely initially refractory to trial augmentin due to the 
formation of abscess, absent on ___ CT but noted on ___ CT 
and U/S. Improved with IV unasyn and manual drainage from 
posterior aspect of right earlobe. Started 10-day course of 
clindamycin (Day 1 = ___, to end on ___. Patient was 
given phone number to call Dr. ___ ENT ___ within 
one week of discharge. 

#Pain control: Patient discharged with script for 10 pills of 
oxycodone 5mg. 

TRANSITIONAL ISSUES
=================
[] Complete full course of antibiotics through ___.
[] Patient's girlfriend will continue milking and packing the 
ear 3x/day.
[] ___ with Dr. ___ within one week of discharge. 
[] ___ with PCP.
 -- Eval for age appropriate health screening.
 -- Hb A1c monitoring as needed.
 -- Conversations about smoking and health-promoting lifestyle 
activities, including regular exercise and diet.

>30 minutes were spent on this complicated discharge 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every 6 hours 
Disp #*40 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN when milking 
purulence 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 8 hours Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Earlobe Cellulitis and Abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
- You came to the hospital because the infection along your ear 
was getting worse.

WHAT HAPPENED WHILE YOU WERE HERE?
- You were treated with IV antibiotics to help clear the 
infection.
- Pus from your ear was drained.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- Please continue to take all of your medications as directed 
(300 mg Clindamycin 4x/day for 10 days).
- Please continue to have your girlfriend drain the pus from 
your ear 3x/day, as demonstrated by Dr. ___.
- Please follow up with all of your doctors. 

Again, it was a pleasure taking care of you!

Sincerely, 

Your ___ Team
 
Followup Instructions:
___